Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.60777730864
[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][O:3]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-3.4335077816400004
[H:1][C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:8][C:10]([H:11])([H:12])[H:13])([H:7])[C:9]>>[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]1[C:10]([H:11])([H:12])[H:13],-6.2730376338800005
[H:17].[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])[H:16]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17],-4.301253508359999
[C:5]([H:6])[O:7][C:8]([H:9])[H:10].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10],-5.24098813312
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([O:9])([H:10])[H:11]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10].[H:11],1.01579582512
[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[O:14][H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-4.233126020569999
[H:1][C:2][O:4][C:5]([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-4.47412156199
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.67277500118
[C:12]([H:13])([H:14])[H:15].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.51230714617
[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C:3](=[C:4][H:5])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.26123541158
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1],7.7332603
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[C:10][H:11].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9],8.50610846052
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[C@@:4]1([H:5])[C:6]([H:7])([H:8])[C@:9]1([H:10])[C:11]([H:12])([H:13])[H:14],0.0191054039005
[H:10].[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[C:9]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[C:9][H:10],-4.01289063577
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:10].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],4.99122042302
[C:4]([H:5])([H:6])[H:7].[O:1]=[C:2]([H:3])[C:8]([H:9])([H:10])[H:11]>>[O:1][C:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-0.6787518512890001
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])[H:12]>>[C:8]([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:9]#[C:10],7.447368666469999
[H:1][O:2]/[C:3]([H:4])=[C:5]1\[C:6][C:7]([H:8])[C:9]1([H:10])[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5](/[C:6]#[C:7][H:8])[C:9]([H:10])[H:11],-0.22586640393000004
[H:1][O:2][C:3][O:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3].[O:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],0.902623357931
[H:1][C:2][C:9]([H:10])([H:11])[H:12].[O:3]=[C:4]([H:5])[C:6]([H:7])[H:8]>>[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.88634116808
[C:1]#[C:2][C:8]([O:7][C:4]([O:3])([H:5])[H:6])([H:9])[H:10]>>[C:1]=[C:2]1[O:3][C:4]([H:5])([H:6])[O:7][C:8]1([H:9])[H:10],-2.47587223931
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13]>>[H:11].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:12][H:13],1.86847831148
[C:2]#[C:3][C:6]([H:7])([H:8])[H:9].[H:1][C:5]#[C:4]>>[H:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-7.440993077410001
[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1][C:2][C:3]>>[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-4.19516114668
[H:9].[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6](=[C:7][H:8])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.08711779995
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])[H:11]>>[H:1].[O:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])[H:11],3.71305644146
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4],1.7841095428099998
